US08877774B2
Step 7. (3-((8-(1,3-Dioxolan-2-yl)octyl)oxy)-5-bromophenyl)(phenyl)methanamine
To a stirred reaction of 2-(8-(3-(azido(phenyl)methyl)-5-bromophenoxy)octyl)-1,3-dioxolane (1.19 g, 2.45 mmol) in tetrahydrofuran (15 mL) and water (0.3 mL), was added triphenylphosphine (0.71 g, 2.69 mmol). The reaction mixture was heated to 60° C. for 16 hours. The reaction mixture was cooled, concentrated and purified by silica gel chromatography eluting with 0-100% ethyl acetate in iso-hexane to afford impure title compound as a colourless oil (0.77 g, 68%).

reactant | 2-(8-(3-(azido(phenyl)methyl)-5-bromophenoxy)octyl)-1,3-dioxolane | 2.45 mmol, 1.19 g | N(=[N+]=[N-])C(C=1C=C(OCCCCCCCCC2OCCO2)C=C(C1)Br)C1=CC=CC=C1 | C24H30BrN3O3
reactant | triphenylphosphine | 2.69 mmol, 0.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 0.3 mL | O | H2O
product | (3-((8-(1,3-Dioxolan-2-yl)octyl)oxy)-5-bromophenyl)(phenyl)methanamine | 0.77 g, 68% | O1C(OCC1)CCCCCCCCOC=1C=C(C=C(C1)Br)C(N)C1=CC=CC=C1 | C24H32BrNO3
